US04559177
To a solution of 18-acetoxy-n-octadecanoyl chloride (11 g) in 1,2-dichloroethane (50 ml) is added aluminum chloride (7 g) and the mixture is stirred at room temperature for 2 hours. This reaction mixture is cooled to 5° C. and a solution of 3,4,5-trimethoxytoluene (6.2 g) in 1,2-dichloroethane (20 ml) is added. The mixture is stirred at room temperature for 72 hours. Then, this reaction mixture is heated to 50° C.-60° C. and stirred for 30 minutes. After cooling, ice-water is added to the reaction mixture and the product is extracted with dichloromethane. The dichloromethane layer is washed with water and the solvent is distilled off to recover an oil (12.1 g). This oil is dissolved in methanol (150 ml) followed by addition of sodium hydroxide (5.2 g). The mixture is stirred at room temperature for 2 hours, at the end of which time it is neutralized with 5N-HCl and the solvent is distilled off. The resultant crude crystals are rinsed with water and recrystallized from dichloromethane-ether (1:1). The above procedure yields 6-(18-hydroxy-1-oxooctadecyl)-2,3-dimethoxy-5-methylphenol (6.4 g) as colorless needles, m.p. 101° C.

reactant | 18-acetoxy-n-octadecanoyl chloride | 11 g | C(C)(=O)OCCCCCCCCCCCCCCCCCC(=O)Cl | C20H37ClO3
reactant | aluminum chloride | 7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4,5-trimethoxytoluene | 6.2 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 6-(18-hydroxy-1-oxooctadecyl)-2,3-dimethoxy-5-methylphenol | 6.4 g | OCCCCCCCCCCCCCCCCCC(=O)C1=C(C=C(C(=C1O)OC)OC)C | C27H46O5
